US07517367B2
Step 3.1 Preparation of 2-[2-(2-nitrophenoxy)ethyl]pyridine
7.05 g (50 mmol) of 2-fluoronitrobenzene, 6.77 g (50 mmol) of 2-(2-hydroxyethyl)pyridine and 16.62 g (50 mmol) of cesium carbonate in 30 mL of dimethyformamide were stirred at room temperature for 7 days. The mixture was then filtered, and the filtrate was subjected to fractional distillation. The solvent and unreacted 2-fluoronitribenzene distilled below 100° C. at 8 to 4 mbar. The product distilled in a bulb tube still at 170 to 180° C. of furnace temperature under a vacuum of 3 mbar.

reactant | 2-fluoronitrobenzene | 50 mmol, 7.05 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-(2-hydroxyethyl)pyridine | 50 mmol, 6.77 g | OCCC1=NC=CC=C1 | C7H9NO
reactant | cesium carbonate | 50 mmol, 16.62 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-[2-(2-nitrophenoxy)ethyl]pyridine | [N+](=O)([O-])C1=C(OCCC2=NC=CC=C2)C=CC=C1 | C13H12N2O3
